US06072067
A 250 mL roundbottom flask equipped with a condenser, stirrer, thermometer and dropping funnel with nitrogen inlet was charged with 100 mL of dimethylamine solution (2.0 M in THF, 0.20 mol) and cooled to 15° C. A solution of tetramethylcyclopenta-dienyldimethylsilylchloride in THF (10.1 g in 30 mL THF, 47 mmol) was added and the solution stirred for 16 hours allowing the temperature of the reaction mixture to rise to room temperature. A precipitate was filtered off and the solvent evaporated. The remaining residue was distilled at sub-atmospheric pressure (2.6 mbar) at 80-81° C. to obtain [(N,N-dimethylamino)dimethylsilyl]tetramethyl-cyclopentadiene (4.2 g). The product was characterized by GC, GC-MS, 13C and 1H NMR.

reactant | dimethylamine | 0.20 mol, 2.0 M, 100 mL | CNC | C2H7N
reactant | tetramethylcyclopenta-dienyldimethylsilylchloride | CC1C(=C(C(=C1[Si](C)(C)Cl)C)C)C | C11H19ClSi
reactant | THF | 47 mmol, 30 mL, 10.1 g | C1CCOC1 | C4H8O
product | [(N,N-dimethylamino)dimethylsilyl]tetramethyl-cyclopentadiene | 4.2 g | CN(C)[Si](C)(C)C1C(=C(C(=C1C)C)C)C | C13H25NSi
